US07745438B2
(R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester
Dissolve (R)-5-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester (0.172 g, 0.31 mmol) in dry methanol (8 mL), add nickel chloride (0.060 g, 0.46 mmol) then sodium borohydride (0.059 g, 1.55 mmol). Stir 15 minutes, add water (˜2 mL) and concentrate. Add ethyl acetate (˜70 mL), filter (Celite®), wash with water and saturated aqueous sodium chloride. Dry (magnesium sulfate), filter and concentrate to give the desired compound as a white solid.

reactant | (R)-5-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester | 0.31 mmol, 0.172 g | C(C)(C)(C)OC(=O)N1CC(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)[N+](=O)[O-])O)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H32F2N2O6
reactant | sodium borohydride | 1.55 mmol, 0.059 g | [BH4-].[Na+]
reactant | water | ˜2 mL | O | H2O
solvent | methanol | 8 mL | CO | CH4O
catalyst | nickel chloride | 0.46 mmol, 0.060 g | [Ni](Cl)Cl
product | (R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H34F2N2O4
